US07569589B2
The solution of diastereomeric mixture of (±)-3-{1-[2-(methylsulfinyl)pyrimidin-4-yl]-2,2-dipyridin-3-ylethyl}benzonitrile (0.11 g, 0.25 mmol) in NH3 saturated DMSO(2 mL) was heated to 100 ° C. in microwave for 2 h. The mixture was concentrated and the residue was purified by silica gel chromatography (5% MeOH in CH2Cl2) to give (±)-3-[1-(2-aminopyrimidin-4-yl)-2,2-dipyridin-3-ylethyl]benzonitrile. 1H-NMR (500 MHz, DMSO-d6) δ 8.68 (d, 1H, J=1.5), 8.60 (d, 1H, J=1.5), 8.29 (d, 1H, J=4.6), 8.23 (d, 1H, J=4.6), 8.00 (d, 1H, J=4.8), 7.95 (s, 1H), 7.90(t, 2H, J=9.4), 7.80(d, 1H, J=8.0), 7.55 (d, 1H, J=7.6), 7.40 (t, 1H, J=7.8), 7.25(dd, 1H, J=7.8, 4.6), 7.19(dd, 1H, J=8.0, 4.6), 6.67(d, 1H, J=5.1), 6.54(s,2H), 5.25 (d, 1H, J=12.5), 5.20 (d, 1H, J=12.4). LRMS m/z (M+H) Calcd: 379.4, found: 379.2.

reactant | (±)-3-{1-[2-(methylsulfinyl)pyrimidin-4-yl]-2,2-dipyridin-3-ylethyl}benzonitrile | 0.25 mmol, 0.11 g | CS(=O)C1=NC=CC(=N1)C(C(C=1C=NC=CC1)C=1C=NC=CC1)C=1C=C(C#N)C=CC1 | C24H19N5OS
reactant | NH3 | 2 mL | N | H3N
product | (±)-3-[1-(2-aminopyrimidin-4-yl)-2,2-dipyridin-3-ylethyl]benzonitrile | NC1=NC=CC(=N1)C(C(C=1C=NC=CC1)C=1C=NC=CC1)C=1C=C(C#N)C=CC1 | C23H18N6
